US04748175
4-Chloro-8-ethoxycarbonylmethyl-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one
A solution of 0.41 g of ethyl chloroacetate in 5 ml of methyl ethyl ketone is dropped to a mixture containing 0.6 g of 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one, 0.5 g of anhydrous potassium carbonate and 15 ml of methyl ethyl ketone within 15 minutes under refluxing and stirring. Then the mixture is refluxed under stirring for 8 hours, filtered as hot and washed with methyl ethyl ketone. The filtrate is evaporated to 10 ml, cooled and the unchanged starting material is filtered out. The mother liquor is evaporated, the residue is triturated with n-hexane, the solid precipitate is filtered, washed with n-hexane and dried to give 0.59 g (68%) of product, m.p.: 69°-70° C.

reactant | ethyl chloroacetate | 0.41 g | ClCC(=O)OCC | C4H7ClO2
reactant | 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 0.6 g | ClC1=NC(=NC2=C1OCC(N2)=O)C | C7H6ClN3O2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 5 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 15 ml | C(C)C(=O)C | C4H8O
product | 4-Chloro-8-ethoxycarbonylmethyl-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 0.59 g, 68% | ClC1=NC(=NC2=C1OCC(N2CC(=O)OCC)=O)C | C11H12ClN3O4
